US04748239
(D) 1,3,4,5-tetrahydro-3-Hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one
Dry oxygen gas was bubbled through a cooled (ice bath) solution of 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one (13 g, 40.2 mmol) in 130 ml of dry tetrahydrofuran for 30 minutes. Potassium hexamethyldisilazide in toluene (180 ml, 0.67M, 120.5 mmol) was then added over a 7 minute period under a continuous stream of oxygen. After stirring for 2.5 hours, the oxygen flow was terminated and the reaction was quenched by the addition of 200 ml of 5% potassium bisulfate. Solid sodium sulfite (15 g) was then added followed by the addition of 100 ml of methanol and the mixture was stirred for an additional 30 minutes. The mixture was then extracted twice with ethyl acetate and the combined organic layers were washed three times with 1M hydrochloric acid, once with saturated bicarbonate solution followed by brine and then dried over sodium sulfate. Concentration afforded 15 g of crude product which was triturated with ether-hexane to yield 9.3 g of high purity product.

reactant | 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 40.2 mmol, 13 g | COC(=O)C1C(NC2=C(CC1C1=CC=C(C=C1)OC)C=CC=C2)=O | C19H19NO4
reactant | Potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | toluene | 120.5 mmol, 0.67M, 180 ml | C1(=CC=CC=C1)C | C7H8
reactant | oxygen | O=O | O2
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 1,3,4,5-tetrahydro-3-Hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 9.3 g | OC1(C(NC2=C(CC1C1=CC=C(C=C1)OC)C=CC=C2)=O)C(=O)OC | C19H19NO5
